US08207333B2
Rosuvastatin tert-butyl ester (3.0 g, 5.6 mmol) is dissolved in 25 mL of a 4:1 mixture of THF/water. The clear solution is warmed to 30° C. and 8.0 M NaOH (0.75 mL, 6.0 mmol) was added portionwise. The reaction mixture is stirred at 30° C. for 2 hours giving a clear yellow solution. Then THF is removed completely under the reduced pressure (20 mbar) at 40° C. The remaining aqueous solution is diluted with water to 25 mL and washed with AcOEt (2×10 mL). After separation from the organic layer aqueous phase is distilled under the reduced pressure (20 mbar) at 40° C. to completely remove the dissolved AcOEt. The remaining clear solution of sodium rosuvastatinate is diluted with water to 25 mL and liophylized to afford 2.81 g (100%) of rosuvastatin sodium salt as white powder.

reactant | Rosuvastatin tert-butyl ester | 5.6 mmol, 3.0 g | CC(C)C1=NC(=NC(=C1/C=C/[C@H](C[C@H](CC(=O)OC(C)(C)C)O)O)C2=CC=C(C=C2)F)N(C)S(=O)(=O)C | C26H36FN3O6S
reactant | NaOH | 6.0 mmol, 8.0 M, 0.75 mL | [OH-].[Na+]
solvent | THF water | C1CCOC1.O
product | rosuvastatin sodium | 2.81 g, 100% | CC(C)C1=NC(=NC(=C1C=CC(CC(CC(=O)[O-])O)O)C2=CC=C(C=C2)F)N(C)S(=O)(=O)C.[Na+] | InChI=1S/C22H28FN3O6S.Na/c1-13(2)20-18(10-9-16(27)11-17(28)12-19(29)30)21(14-5-7-15(23)8-6-14)25-22(24-20)26(3)33(4,31)32;/h5-10,13,16-17,27-28H,11-12H2,1-4H3,(H,29,30);/q;+1/p-1
